### PR TITLE
Created curried bifunctors from a bicategorical point of view, adapte…

### PR DESCRIPTION
**Pull request by Kfwullaert**
…d the definition of monoidal categories and functors to work in this new "whiskered" setting. NOT READY TO BE MERGED since displayed monoidal categories, etc. still has to be adapted in this whiskered setting!

### CODE REVIEW

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v [hunk 1]
```diff
@@ -0,0 +1,121 @@
...
+Definition associator_law {C : category} {T : tensor C} (α : associator_data T) : UU :=
+  (tensor_assoc_nat α) × (tensor_assoc_iso α).
+
+Definition tensorassociator_nat {C : category} {T : tensor C} {α : associator_data T} (αl : associator_law α) : tensor_assoc_nat α := pr1 αl.
+Coercion tensorassociator_nat : associator_law >-> tensor_assoc_nat.
+
+Definition tensorassociator_iso {C : category} {T : tensor C} {α : associator_data T} (αl : associator_law α) : tensor_assoc_iso α := pr2 αl.
+Coercion tensorassociator_iso : associator_law >-> tensor_assoc_iso.
+
+Definition leftunitor_iso {C : category} {T : tensor C} {I : C} (lu : leftunitor T I) : UU := is_nat_z_iso (pr1 lu).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:89]: Why is the `pr1` necessary?

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v [hunk 2]
```diff
@@ -0,0 +1,121 @@
...
+
+Definition rightunitor_iso {C : category} {T : tensor C} {I : C} (ru : rightunitor T I) : UU := is_nat_z_iso (pr1 ru).
+
+Definition triangle_identity {C : category}
+           {T : tensor C}
+           {I : C}
+           (lu : leftunitor T I)
+           (ru : rightunitor T I)
+           (α : associator_data T)
+    := ∏ (x y : C), (α x I y) · (x ⊗^{T}_{l} ((pr1 lu) y)) = ((pr1 ru) x) ⊗^{T}_{r} y.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:99]: Why is the `pr1` necessary?

File: UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v [hunk 3]
```diff
@@ -0,0 +1,335 @@
...
+    - apply bifunctor_equalwhiskers.
+  Qed.
+  Definition nattrans0' (pu : preserves_unit) : nat_trans functor0' functor1' := (nattrans0'_data pu,,nattrans0'_nat pu).
+
+  Definition nattrans1'_data (pt : preserves_tensor): nat_trans_data functor1' functor2' := λ x, (pr1 pt) x I_{M}.
+
+  (** The proof of the naturality condition of nattrans1 should be cleaned, but don't see how,
+      it follows immediate from the naturality of pt, but for some reason I have to show
+      that they coincide while this is by definition. **)
+  Lemma nattrans1'_nat (pt : preserves_tensor) : is_nat_trans functor1' functor2' (nattrans1'_data pt).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v:215]: We need to improve this proof - if that is not possible, then there is something wrong with the definitions.

File: UniMath/CategoryTheory/Monoidal/WhiskeredBifunctors.v [hunk 4]
```diff
@@ -0,0 +1,291 @@
...
+  Definition bifunctor_rightidax {A B C : category} (F : bifunctor_data A B C) :=
+    ∏ (b : B) (a : A), (identity a) ⊗^{F}_{r} b = identity (a ⊗_{F} b).
+
+  Definition bifunctor_leftcompax {A B C : category} (F : bifunctor_data A B C) :=
+    ∏ (a : A) (b1 b2 b3 : B) (g1 : B⟦b1,b2⟧) (g2 : B⟦b2,b3⟧), a ⊗^{F}_{l} (g1 · g2) = (a ⊗^{F}_{l} g1) · (a ⊗^{F}_{l} g2).
+
+  Definition bifunctor_rightcompax {A B C : category} (F : bifunctor_data A B C) :=
+    ∏ (b : B) (a1 a2 a3 : A) (f1 : A⟦a1,a2⟧) (f2 : A⟦a2,a3⟧), (f1 · f2) ⊗^{F}_{r} b = (f1 ⊗^{F}_{r} b) · (f2 ⊗^{F}_{r} b).
+
+  Lemma leftwhiskering_functor {A B C : category} (F : bifunctor_data A B C) (bli : bifunctor_leftidax F) (blc : bifunctor_leftcompax F) :
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/WhiskeredBifunctors.v:45]: I would not be surprised if your problems in the proof mentioned elsewhere come from your transforming things into a functor to reuse the definition of `nat_trans`. This is probably a mistake, since Coq won't easily be able to infer what these functors are.

It is better not to use the notion `nat_trans`.

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v (hunk 1 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:89]: lu is a natural transformation, but it needs the data of the natural transformation, it doesn't work without the projection on the data, maybe there is no coercion from a natural transformation to its underlying data?

Comment (benediktahrens) [reply UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:89]: There is the following coercion
```
Coercion nat_trans_data_from_nat_trans_funclass : nat_trans >-> Funclass.
```
in `CategoryTheory.Core.NaturalTransformations`. Possibly it does not trigger because `leftunitor` is not unfolded to into `nat_trans`.

Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:89]: Just add
`Identity Coercion leftunitorintonattrans: leftunitor >-> nat_trans.`
`Identity Coercion rightunitorintonattrans: rightunitor >-> nat_trans.`
to solve this problem.

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v [hunk 5]
```diff
@@ -0,0 +1,121 @@
...
+Coercion rightunitor_from_monoidalcatdata : monoidalcategory_data >-> rightunitor.
+
+Definition associatordata_from_monoidalcatdata {C : category} (MD : monoidalcategory_data C) : associator_data MD := (pr2 (pr2 (pr2 (pr2 MD)))).
+Coercion associatordata_from_monoidalcatdata : monoidalcategory_data >-> associator_data.
+
+
+(** Axioms **)
+Definition tensor_assoc_nat {C : category} {T : tensor C} (α : associator_data T) : UU :=
+  ∏ (x x' y y' z z' : C), ∏ (f : C⟦x,x'⟧) (g : C⟦y,y'⟧) (h : C⟦z,z'⟧),
+     (f ⊗^{T}_{1} (g ⊗^{T}_{1} h))∘(α x y z) = (α x' y' z')∘ ((f ⊗^{T}_{1} g) ⊗^{T}_{1} h).
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:75]: For me, this could be just a derived equation (from three elementary ones with whiskering only - in the combinations ll, lr and rr).

File: UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v [hunk 6]
```diff
@@ -0,0 +1,335 @@
...
+Section local_helper_lemmas.
+  (* I would assume that the following lemmas should already exists in the "iso file", but I can't find it (I need is_iso_stable_undertransportation)  *)
+  Lemma iso_stable_under_equality {C : category} {x y : C} {f g : C⟦x,y⟧} : (g = f) → (is_z_isomorphism f) → (is_z_isomorphism g).
+  Proof.
+    intros pe pi.
+    induction pe.
+    exact pi.
+  Qed.
+
+  Lemma iso_stable_under_tranportation {C : category} {x y z : C} {f : C⟦x,y⟧} {pf : y=z} : (is_z_isomorphism f) → (is_z_isomorphism (transportf _ pf f)).
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v:24]: there should be an s in the last part of the identifier (this is just a typo)

**Review by rmatthes — CHANGES_REQUESTED** [review]
the monoidal functors seem to need further discussion

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v [hunk 7]
```diff
@@ -70,33 +49,82 @@ Coercion associatordata_from_monoidalcatdata : monoidalcategory_data >-> associa
...
+Definition leftunitor_iso {C : category} {T : tensor C} {I : C} (lu : leftunitor T I) : UU := is_nat_z_iso lu.
+Definition rightunitor_iso {C : category} {T : tensor C} {I : C} (ru : rightunitor T I) : UU := is_nat_z_iso ru.
 Definition triangle_identity {C : category}
            {T : tensor C}
            {I : C}
            (lu : leftunitor T I)
            (ru : rightunitor T I)
            (α : associator_data T)
-    := ∏ (x y : C), (α x I y) · (x ⊗^{T}_{l} ((pr1 lu) y)) = ((pr1 ru) x) ⊗^{T}_{r} y.
+    := ∏ (x y : C), (α x I y) · (x ⊗^{T}_{l} (pr1 lu y)) = ((pr1 ru) x) ⊗^{T}_{r} y.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:127]: cannot `pr1` now be left out here as well in both occurrences?

**Review by rmatthes — COMMENTED** [review]
many good-looking changes

File: UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v [hunk 8]
```diff
@@ -13,27 +13,26 @@ Local Open Scope cat.
...
-  Lemma iso_stable_under_equality {C : category} {x y : C} {f g : C⟦x,y⟧} : (g = f) → (is_z_isomorphism f) → (is_z_isomorphism g).
+  Lemma isos_stable_under_equality {C : category} {x y : C} {f g : C⟦x,y⟧} : (g = f) → (is_z_isomorphism f) → (is_z_isomorphism g).
   Proof.
     intros pe pi.
     induction pe.
     exact pi.
   Qed.
 
-  Lemma iso_stable_under_tranportation {C : category} {x y z : C} {f : C⟦x,y⟧} {pf : y=z} : (is_z_isomorphism f) → (is_z_isomorphism (transportf _ pf f)).
+  Lemma isos_stable_under_tranportation {C : category} {x y z : C} {f : C⟦x,y⟧} {pf : y=z} : (is_z_isomorphism f) → (is_z_isomorphism (transportf _ pf f)).
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v:23]: I am sorry for having been imprecise before: the s is missing in tranportation.

File: UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v [hunk 9]
```diff
@@ -13,26 +13,26 @@ Local Open Scope cat.
...
-  Lemma isos_stable_under_equality {C : category} {x y : C} {f g : C⟦x,y⟧} : (g = f) → (is_z_isomorphism f) → (is_z_isomorphism g).
+  Lemma iso_stable_under_equality {C : category} {x y : C} {f g : C⟦x,y⟧} : (g = f) → (is_z_isomorphism f) → (is_z_isomorphism g).
   Proof.
     intros pe pi.
     induction pe.
     exact pi.
   Qed.
 
-  Lemma isos_stable_under_tranportation {C : category} {x y z : C} {f : C⟦x,y⟧} {pf : y=z} : (is_z_isomorphism f) → (is_z_isomorphism (transportf _ pf f)).
+  Lemma iso_stable_under_tranportf {C : category} {x y z : C} {f : C⟦x,y⟧} {pf : y=z} : (is_z_isomorphism f) → (is_z_isomorphism (transportf _ pf f)).
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v:23]: please an s after tran

File: UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v [hunk 10]
```diff
@@ -0,0 +1,216 @@
...
+
+Section DisplayedMonoidalCategories.
+
+  Local Notation "I_{ M }" := (unit_from_monoidalcatdata M).
+  Local Notation "lu^{ M }" := (leftunitor_from_monoidalcatdata M).
+  Local Notation "ru^{ M }" := (rightunitor_from_monoidalcatdata M).
+  Local Notation "α^{ M }" := (associatordata_from_monoidalcatdata M).
+  Local Notation "lu^{ M }_{ x }" := ( (leftunitor_from_monoidalcatdata M) x ).
+  Local Notation "ru^{ M }_{ x }" := ( (rightunitor_from_monoidalcatdata M) x ).
+  Local Notation "α^{ M }_{ x , y , z }" := (associatordata_from_monoidalcatdata M x y z).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v:30]: These notations should be obtained by opening a notation module?

File: UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v [hunk 11]
```diff
@@ -0,0 +1,216 @@
...
+
+  Definition disp_tensor {C : category} (D : disp_cat C) (M : monoidalcategory C) : UU := disp_bifunctor M D D D.
+  Identity Coercion disptensor_into_dispbifunctor : disp_tensor >-> disp_bifunctor.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v:33]: What is the purpose of this coercion?

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v [hunk 12]
```diff
@@ -0,0 +1,147 @@
...
+Definition make_monoidalcat_data {C : category} {T : tensor C} {I : C} (lu : leftunitor T I) (ru : rightunitor T I) (α : associator_data T) : monoidalcategory_data C := (T,,I,,lu,,ru,,α).
+
+Definition tensor_from_monoidalcatdata {C : category} (MD : monoidalcategory_data C) : tensor C := (pr1 MD).
+Coercion tensor_from_monoidalcatdata : monoidalcategory_data >-> tensor.
+
+Definition unit_from_monoidalcatdata {C : category} (MD : monoidalcategory_data C) : C := (pr1 (pr2 MD)).
+Coercion unit_from_monoidalcatdata : monoidalcategory_data >-> ob.
+
+Definition leftunitor_from_monoidalcatdata {C : category} (MD : monoidalcategory_data C) : leftunitor MD MD := (pr1 (pr2 (pr2 MD))).
+Coercion leftunitor_from_monoidalcatdata : monoidalcategory_data >-> leftunitor.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:41]: I don't think having this coercion is a good idea.

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v [hunk 13]
```diff
@@ -0,0 +1,147 @@
...
+Definition tensor_assoc_nat1 {C : category} {T : tensor C} {α : associator_data T} (αnl : tensor_assoc_nat_leftwhisker α) (αnr : tensor_assoc_nat_rightwhisker α) (αnlr : tensor_assoc_nat_leftrightwhisker α) {x x' y y' z z' : C} (f : C⟦x,x'⟧) (g : C⟦y,y'⟧) (h : C⟦z,z'⟧) :
+       (α x y z) · ((f ⊗^{ T}_{r} (y ⊗_{ T} z)) · (x' ⊗^{ T}_{l} ((g ⊗^{ T}_{r} z) · (y' ⊗^{ T}_{l} h)))) =
+         (((f ⊗^{ T}_{r} y) · (x' ⊗^{ T}_{l} g))  ⊗^{ T}_{r} z) · ((x' ⊗_{ T} y') ⊗^{ T}_{l} h) · (α x' y' z').
+Proof.
+  rewrite assoc.
+  rewrite αnr.
+  rewrite assoc'.
+  etrans. {
+    apply cancel_precomposition.
+    Check whiskerscommutes.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:72]:
```suggestion
```

File: UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v [hunk 14]
```diff
@@ -0,0 +1,139 @@
...
+Require Import UniMath.CategoryTheory.Core.Isos.
+Require Import UniMath.CategoryTheory.Monoidal.WhiskeredBifunctors.
+Require Import UniMath.CategoryTheory.Monoidal.MonoidalCategoriesWhiskered.
+
+
+Local Open Scope cat.
+
+Import Notations.
+
+Section local_helper_lemmas.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v:15]: These lemmas should be moved into `CategoryTheory/Core/Isos`.

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v [hunk 15]
```diff
@@ -0,0 +1,147 @@
...
+Coercion unit_from_monoidalcatdata : monoidalcategory_data >-> ob.
+
+Definition leftunitor_from_monoidalcatdata {C : category} (MD : monoidalcategory_data C) : leftunitor MD MD := (pr1 (pr2 (pr2 MD))).
+Coercion leftunitor_from_monoidalcatdata : monoidalcategory_data >-> leftunitor.
+
+Definition rightunitor_from_monoidalcatdata {C : category} (MD : monoidalcategory_data C) : rightunitor MD MD := (pr1 (pr2 (pr2 (pr2 MD)))).
+Coercion rightunitor_from_monoidalcatdata : monoidalcategory_data >-> rightunitor.
+
+Definition associatordata_from_monoidalcatdata {C : category} (MD : monoidalcategory_data C) : associator_data MD := (pr2 (pr2 (pr2 (pr2 MD)))).
+Coercion associatordata_from_monoidalcatdata : monoidalcategory_data >-> associator_data.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:47]: I don't think having this coercion is a good idea.

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v [hunk 16]
```diff
@@ -0,0 +1,147 @@
...
+Identity Coercion rightunitorintonattrans : rightunitor >-> nat_trans.
+
+Definition monoidalcategory_data (C : category): UU :=
+    ∑ T : tensor C, ∑ I : C,
+        (leftunitor T I) × (rightunitor T I) × (associator_data T).
+
+Definition make_monoidalcat_data {C : category} {T : tensor C} {I : C} (lu : leftunitor T I) (ru : rightunitor T I) (α : associator_data T) : monoidalcategory_data C := (T,,I,,lu,,ru,,α).
+
+Definition tensor_from_monoidalcatdata {C : category} (MD : monoidalcategory_data C) : tensor C := (pr1 MD).
+Coercion tensor_from_monoidalcatdata : monoidalcategory_data >-> tensor.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:35]: I don't think having this coercion is a good idea.

File: UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v [hunk 17]
```diff
@@ -0,0 +1,147 @@
...
+(** Data **)
+Definition tensor (C : category) : UU :=
+  bifunctor C C C.
+Identity Coercion tensorintobifunctor : tensor >-> bifunctor.
+
+Definition associator_data {C : category} (T : tensor C) : UU :=
+  ∏ (x y z : C), C ⟦(x ⊗_{T} y) ⊗_{T} z, x ⊗_{T} (y ⊗_{T} z)⟧.
+
+Definition leftunitor {C : category} (T : tensor C) (I : C) : UU :=
+  nat_trans (leftwhiskering_functor T (bifunctor_leftid T) (bifunctor_leftcomp T) I) (functor_identity C).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategoriesWhiskered.v:21]: I suggest giving this definition directly, not in terms of `nat_trans` and `leftwhiskering_functor`.

File: UniMath/CategoryTheory/Monoidal/TotalDisplayedMonoidalWhiskered.v [hunk 18]
```diff
@@ -0,0 +1,339 @@
...
+    - intro x.
+      use tpair.
+      + exact ((leftunitor_from_monoidalcatdata M) (pr1 x)).
+      + exact ((pr1 dlu) (pr1 x) (pr2 x)).
+    - intros x y f.
+      use total2_paths_b.
+      + exact ((pr2 (leftunitor_from_monoidalcatdata M)) (pr1 x) (pr1 y) (pr1 f)).
+      + exact ((pr2 dlu) (pr1 x) (pr1 y) (pr1 f) (pr2 x) (pr2 y) (pr2 f)).
+  Defined.
+  Notation Tlu := totalcategory_leftunitor.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/TotalDisplayedMonoidalWhiskered.v:106]: Where is this notation used?

File: UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v [hunk 19]
```diff
@@ -0,0 +1,139 @@
...
+  Qed.
+
+  Definition preserves_associativity (pt : preserves_tensor M N F) : UU :=
+    ∏ (x y z : C), ((pt x y) ⊗^{N}_{r} (F z)) · (pt (x ⊗_{M} y) z) · (#F (α^{M}_{x,y,z}))
+                   = α^{N}_{F x, F y, F z} · ((F x) ⊗^{N}_{l} (pt y z)) · (pt x (y ⊗_{M} z)).
+
+  Definition monoidalfunctor_laws (mfd : monoidalfunctor_data) : UU :=
+    (preserves_associativity mfd) × (preserves_leftunitality mfd mfd) × (preserves_rightunitality mfd mfd).
+
+  Definition monoidalfunctor : UU :=
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v:109]: Change to `fmonoidal`?

File: UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v [hunk 20]
```diff
@@ -0,0 +1,139 @@
...
+  Definition preserves_unit_strongly (pu : preserves_unit) : UU := is_z_isomorphism pu.
+
+  Definition preserves_unit_strictly (pu : preserves_unit) : UU :=
+    ∑ (pf : I_{N} = (F I_{M})), pu = transportf _ pf (identity I_{N}).
+
+  Definition strictlyunitpreserving_is_strong {pu : preserves_unit} (pfstrict : preserves_unit_strictly pu) : preserves_unit_strongly pu.
+  Proof.
+    use (iso_stable_under_equalitytransportf (pr2 pfstrict) (is_z_isomorphism_identity I_{N})).
+  Defined.
+  Coercion strictlyunitpreserving_is_strong : preserves_unit_strictly >-> preserves_unit_strongly.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v:137]: Useful?

File: UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v [hunk 21]
```diff
@@ -0,0 +1,243 @@
...
+Require Import UniMath.CategoryTheory.DisplayedCats.Isos.
+Require Import UniMath.CategoryTheory.Monoidal.WhiskeredBifunctors.
+Require Import UniMath.CategoryTheory.Core.Isos.
+
+Open Scope cat.
+Open Scope mor_disp_scope.
+
+Section DisplayedBifunctor.
+
+  Import Notations.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v:16]: Which Notations does this refer to? Maybe use a qualified name, such as `Import Foo.Notations.` to indicate the module of which `Notations` is a submodule?

File: UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v (hunk 11 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v:33]: This coercion is for example already needed in the definition below of disp_associator_data. More precisely, In order to write "(xx \otimes\otimes_{DT} yy)", DT has to be of type "disp_bifunctor_data". If I would remove this coercion, then Coq doesn't know that DT is a disp_bifunctor (and by the coercion of disp_bifunctor >-> disp_bifunctor_data) in particular disp_bifunctor_data. So if I would remove this coercion, I would have to introduce the notation \otimes\otimes again for disp_tensor.

File: UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v [hunk 22]
```diff
@@ -0,0 +1,216 @@
...
+    disp_nat_trans ru^{M} (rightwhiskering_dispfunctor DT (disp_bifunctor_rightid DT) (disp_bifunctor_rightcomp DT) I_{M} i) (disp_functor_identity D).
+  Identity Coercion disprightunitorintonattrans : disp_rightunitor >-> disp_nat_trans.
+
+
+  Definition disp_monoidalcat_data {C : category} (D : disp_cat C) (M : monoidalcategory C) : UU :=
+    ∑ DT : disp_tensor D M, ∑ i : D I_{M},
+          (disp_leftunitor DT i) × (disp_rightunitor DT i) × (disp_associator_data DT).
+
+  Definition disp_tensor_from_dispmoncatdata {C : category} {D : disp_cat C} {M : monoidalcategory C} (DMD : disp_monoidalcat_data D M) : disp_tensor D M := pr1 DMD.
+  Coercion disp_tensor_from_dispmoncatdata : disp_monoidalcat_data >-> disp_tensor.
```
[the remark this answers is not in the document]
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v:53]: This is again helpful for using notation. If DMD would be the data of a displayed monoidal category, then, using this notation, we can write "xx \otimes\otimes_{DMD} yy", instead of having to write "xx \otimes\otimes_{disp_tensor_from_dispmoncatdata DMD} yy".

File: UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v (hunk 10 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/DisplayedMonoidalWhiskered.v:30]: A related comment/question. These notations are used for when one wants to work with (non-displayed) monoidal categories. Should I also add analogous notations for displayed monoidal categories? For example, 
"dI_{DM}" := (dispunit_from_dispmoncatdata DM).
Then, when removing some of the coercions (mentioned in your comments below), I can just use these notations and it is more clear what data we need from the dispmoncatdata but we do not have to write for example dispunit_from_dispmoncatdata.

File: UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v (hunk 19 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v:105]: @benediktahrens Should only the definition of monoidalfunctor be changed to fmonoidal or also (for example) monoidalfunctor_laws to fmonoidal_laws?

Comment (benediktahrens) [reply UniMath/CategoryTheory/Monoidal/MonoidalFunctorsWhiskered.v:105]: @Kfwullaert : Having consistent names is more important than having good names, hence yes, those should also be changed, I think.

File: UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v [hunk 23]
```diff
@@ -0,0 +1,238 @@
...
+  Lemma mor_disp_transportb_prewhisker
+    {C : precategory} {D : disp_cat_data C}
+    {x y z : C} {f : x --> y} {g g' : y --> z} (eg : g = g')
+    {xx : D x} {yy} {zz} (ff : xx -->[f] yy) (gg' : yy -->[g'] zz)
+  : ff ;; (transportb _ eg gg') =  transportb _ (maponpaths (compose f) (eg)) (ff ;; gg').
+  Proof.
+      destruct eg; apply idpath.
+  Qed.
+
+  Lemma mor_disp_transportb_postwhisker
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v:182]: Is there not already such a lemma?

File: UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v [hunk 24]
```diff
@@ -0,0 +1,238 @@
...
+
+  Definition is_disp_binat_trans {A B C : category} {F : bifunctor A B C} {G : bifunctor A B C} {DA : disp_cat A} {DB : disp_cat B} {DC : disp_cat C} {α : binat_trans F G} {DF : disp_bifunctor F DA DB DC} {DG : disp_bifunctor G DA DB DC} (dα : disp_binat_trans_data α DF DG) : UU :=
+    (∏ (x : A) (y1 y2 : B) (g : B⟦y1,y2⟧) (xx : DA x) (yy1 : DB y1) (yy2 : DB y2) (gg : yy1 -->[g] yy2),
+      ((xx ⊗⊗^{DF}_{l} gg) ;; (dα _ _ xx yy2) = transportb _ (pr1 (pr2 α) x y1 y2 _) ((dα _ _ xx yy1) ;; (xx ⊗⊗^{DG}_{l} gg)))) ×                                                                                                                                            (∏ (x1 x2 : A) (y : B) (f : A⟦x1,x2⟧) (xx1 : DA x1) (xx2 : DA x2) (yy : DB y) (ff : xx1 -->[f] xx2),
+    ((ff ⊗⊗^{DF}_{r} yy) ;; (dα _ _ xx2 yy) = transportb _ (pr2 (pr2 α) x1 x2 y _) ((dα _ _ xx1 yy) ;; (ff ⊗⊗^{DG}_{r} yy))) ).
+
+
+
+  Lemma mor_disp_transportb_prewhisker
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v:173]: Is there not already such a lemma?

File: UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v (hunk 23 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v:182]: There are mor_disp_transportf_prewhisker and mor_disp_transportf_postwhisker, but only those, not for backward transportation.

Comment (benediktahrens) [reply UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v:182]: Backward transport is a special case of forward transport, so the lemma about forward transport should apply here.

**Comment by benediktahrens** [comment]
CI shows the following error:
```
--- checking every proof file is listed in one of the packages ---
error: *** file UniMath/CategoryTheory/Monoidal/MonoidalSectionsWhiskered.v not listed in appropriate file UniMath/*/.package/files
error: *** 1 unlisted proof files encountered
make: *** [Makefile:383: check-listing-of-proof-files] Error 1
```
Could you fix this?

File: UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v (hunk 23 above)
Comment (benediktahrens) [reply UniMath/CategoryTheory/Monoidal/WhiskeredDisplayedBifunctors.v:182]: @Kfwullaert : please try to remove these lemmas.
